US07858807B2
In a 300 mL-volume glass vessel equipped with a stirrer, a thermometer and a dropping funnel, the isopropyl alcohol solution containing 15.9 g (0.162 mol) of N-cyclopropylacetamidine (which was prepared in the above-mentioned Reference Example 4), 19.3 g (0.108 mol) of 3-bromo-4-methoxy-3-buten-2-one and 16.4 g (0.162 mol) of triethylamine were placed. The mixture was heated to 80° C. under stirring for 8 hours for carrying out reaction. After the reaction was complete, 80 mL of sulfuric acid (2 mol/L) was added to the reaction mixture, and the mixture was concentrated under reduced pressure. The concentrate was washed with methyl isobutyl ketone, and the aqueous portion was taken out. The aqueous portion was made basic by adding an aqueous 48% sodium hydroxide, while the mixture was kept at a temperature of not higher than 40° C. The aqueous basic portion was subjected to extraction with methyl isobutyl ketone, and the extracted portion was concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=2/1) to give 11.8 g (yield: 67%) of 5-acetyl-1-cyclopropyl-2-methylimidazole as pale yellow liquid.

reactant | N-cyclopropylacetamidine | 0.162 mol, 15.9 g | C1(CC1)NC(C)=N | C5H10N2
reactant | 3-bromo-4-methoxy-3-buten-2-one | 0.108 mol, 19.3 g | BrC(C(C)=O)=COC | C5H7BrO2
reactant | triethylamine | 0.162 mol, 16.4 g | C(C)N(CC)CC | C6H15N
reactant | sulfuric acid | 2 mol/L, 80 mL | S(O)(O)(=O)=O | H2O4S
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 5-acetyl-1-cyclopropyl-2-methylimidazole | 11.8 g, yield: 67% | C(C)(=O)C1=CN=C(N1C1CC1)C | C9H12N2O
